US09260427B2
To a solution of 4-(tert-butyl)benzoic acid (25 mg, 0.14 mmol), (S)-methyl 2-amino-3-(4-(4-(4-(heptyloxy)phenyl)-1H-imidazol-2-yl)phenyl)propanoate (55 mg, 0.13 mmol), and TEA (53 μl, 0.38 mmol) in DMF (1 mL) was added HATU (53 mg, 0.14 mmol). The reaction mixture was stirred at room temperature for 2 h, diluted in DCM, and washed aq. NaHCO3. The organic layer was dried, concentrated and purified by chromatography (EA/hexane) to provide 14 mg (17%) of methyl (S)-2-(4-(tert-butyl)benzamido)-3-(4-(4-(4-(heptyloxy)phenyl)-1H-imidazol-2-yl)phenyl)propanoate. LCMS-ESI (m/z) calculated for C37H45N3O4: 595.8. found 596.4 [M+H]+, tR=2.33 min. (Method 8).

reactant | 4-(tert-butyl)benzoic acid | 0.14 mmol, 25 mg | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | (S)-methyl 2-amino-3-(4-(4-(4-(heptyloxy)phenyl)-1H-imidazol-2-yl)phenyl)propanoate | 0.13 mmol, 55 mg | N[C@H](C(=O)OC)CC1=CC=C(C=C1)C=1NC=C(N1)C1=CC=C(C=C1)OCCCCCCC | C26H33N3O3
reactant | HATU | 0.14 mmol, 53 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl (S)-2-(4-(tert-butyl)benzamido)-3-(4-(4-(4-(heptyloxy)phenyl)-1H-imidazol-2-yl)phenyl)propanoate | 14 mg, 17% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C=2NC=C(N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C37H45N3O4
